US07981874B2
4-[(Dimethoxy-phosphoryl)-fluoro-methyl]-benzoic acid.
To a stirring solution of 4-[(dimethoxy-phosphoryl)-fluoro-methyl]-benzoic acid benzyl ester (76 mg, 0.216 mmol) in MeOH (0.21M) was added 20 mol % Pd on Carbon (0.043 mmol). The resulting mixture was degassed with alternating vacuum and hydrogen gas (4×), then stirred under a hydrogen atmosphere (1 atm) at ambient temperature for 18 hours. The reaction mixture was filtered through a nylon syringe filter and concentrated in vacuo to give the title compound: MS: cal'd 263 (MH+), exp 263 (MH+)

reactant | 4-[(dimethoxy-phosphoryl)-fluoro-methyl]-benzoic acid benzyl ester | 0.216 mmol, 76 mg | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)C(F)P(=O)(OC)OC)=O | C17H18FO5P
solvent | MeOH | 0.21M | CO | CH4O
catalyst | Pd on Carbon | 0.043 mmol | [Pd] | Pd
product | 4-[(Dimethoxy-phosphoryl)-fluoro-methyl]-benzoic acid | COP(=O)(OC)C(C1=CC=C(C(=O)O)C=C1)F | C10H12FO5P
